US08357693B2
tert-butyl 5-(2-(3-aminophenyl)-7-methoxy-6-(3-morpholinopropoxy)quinazolin-4-ylamino)-1H-indazole-1-carboxylate
To a mixture of 5-(7-methoxy-6-(3-morpholinopropoxy)-2-(3-nitrophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate (0.215 g) in MeOH (60 mL) was added Pd/C (0.21 g) and NH4CO2 (0.21 g). The mixture was heated at 60° C. for 40 mins, upon which an additional portion of NH4CO2 (0.095 g) was added, heating was continued for a further 20 minutes. The mixture was filtered to remove the Pd/C and the filtrate was concentrated under reduced pressure. The residue was taken up in CH2Cl2 (300 mL) wand was washed with water and brine. The mixture was dried (Na2SO4) and the volatiles removed in vacuo. The material was combined with an identical experiment using 0.2 g and the residue was subjected to preparative TLC (SiO2, CH2Cl2:MeOH 9:1) to give the desired product tert-butyl 5-(2-(3-aminophenyl)-7-methoxy-6-(3-morpholinopropoxy)quinazolin-4-ylamino)-1H-indazole-1-carboxylate. HPLC retention time 4.67 mins.

reactant | 5-(7-methoxy-6-(3-morpholinopropoxy)-2-(3-nitrophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 0.215 g | COC1=C(C=C2C(=NC(=NC2=C1)C1=CC(=CC=C1)[N+](=O)[O-])NC=1C=C2C=NN(C2=CC1)C(=O)[O-])OCCCN1CCOCC1
solvent | MeOH | 60 mL | CO | CH4O
catalyst | Pd/C | 0.21 g | [Pd] | Pd
product | tert-butyl 5-(2-(3-aminophenyl)-7-methoxy-6-(3-morpholinopropoxy)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | NC=1C=C(C=CC1)C1=NC2=CC(=C(C=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C)OCCCN1CCOCC1)OC | C34H39N7O5
